US05057535
A mixture of 1-(4-trifluoromethylphenyl)-1-propanone (2.50g), paraformaldehyde (1.10g), pyrrolidine hydrochloride (1.60g), and hydrochloric acid (0.1 ml) was refluxed for 16 hours. The mixture was evaporated in vacuo to give the residue. The residue was partitioned into water and ethyl acetate. The aqueous layer was neutralized with ammonia water and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then filtered. The filtrate was evaporated in vaccuo to give 1-(4-trifluoromethylphenyl)-2-methyl-3-pyrrolidino-1propanone (1.58g; yield: 44.8%) as an oil.

reactant | 1-(4-trifluoromethylphenyl)-1-propanone | 2.50g | FC(C1=CC=C(C=C1)C(CC)=O)(F)F | C10H9F3O
reactant | paraformaldehyde | 1.10g | C=O | CH2O
reactant | pyrrolidine hydrochloride | 1.60g | Cl.N1CCCC1
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
product | 1-(4-trifluoromethylphenyl)-2-methyl-3-pyrrolidino-1propanone | 1.58g, yield: 44.8% | FC(C1=CC=C(C=C1)C(C(CN1CCCC1)C)=O)(F)F | C15H18F3NO
